US04654343
N-(1-Methylethyl)-3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenylacetamide
To a solution of 2 g of N-(1-methylethyl)-3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)benzenamine and 1.43 ml diisopropylethylamine in 200 ml of dichloromethane was added 0.6 ml of acetylchloride. This solution was stirred for 12 hours, then poured onto 200 ml of water and extracted with 150 ml portions of dichloromethane. The combined extracts were dried, concentrated in vacuo and the solid chromatographed on 300 g of silica gel using dichloromethane-methanol (97:3). The fractions containing the desired product were combined, concentrated in vacuo and the solid recrystalized from dichloromethane-hexane to give 0.72 g of yellow crystals, mp 197°-200° C.

reactant | N-(1-methylethyl)-3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)benzenamine | 2 g | CC(C)NC1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C15H17N5
reactant | diisopropylethylamine | 1.43 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetylchloride | 0.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(1-Methylethyl)-3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenylacetamide | 0.72 g | CC(C)NC(CC1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C)=O | C17H19N5O
